US08629270B2
1-(4-Bromo-2-thienyl)-2-(diallylamino)ethanone
To 1-(4-bromothiophen-2-yl)ethanone (10 g, 48.8 mmol) in methanol (98 mL) and dichloromethane (163 mL) is added tetra-n-butylammonium tribromide (28.8 g, 58.5 mmol). The reaction mixture is concentrated under reduced pressure at 50° C. to give a residue which is purified by silica gel chromatography, eluting with dichloromethane to give crude 2-bromo-1-(4-bromo-2-thienyl)ethanone. To a solution of the crude 2-bromo-1-(4-bromo-2-thienyl)ethanone in acetonitrile (200 ml) is added potassium carbonate (20.2 g, 146 mmol) and diallylamine (9.48 g, 97.5 mmol). The reaction is stirred at room temperature for 2 hours. Water is added and the solution is extracted with ethyl acetate. The organic phases are combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the crude title compound. ES/MS (m/e): (79Br/81Br) 300/302 (M+H).

reactant | 2-bromo-1-(4-bromo-2-thienyl)ethanone | BrCC(=O)C=1SC=C(C1)Br | C6H4Br2OS
reactant | potassium carbonate | 146 mmol, 20.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | diallylamine | 97.5 mmol, 9.48 g | C(C=C)NCC=C | C6H11N
reactant | Water | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-(4-Bromo-2-thienyl)-2-(diallylamino)ethanone | BrC=1C=C(SC1)C(CN(CC=C)CC=C)=O | C12H14BrNOS
